US06211215B1
To a suspension of lithium aluminum hydride (25 mg) in ether (5 ml) was added dropwise, under ice-cooling, a solution of ethyl 1-[3-[4-[2-[(E)-2-phenylethenyl]-4-oxazolylmethoxy]phenyl]propyl]-2-imidazolecarboxylate (300 mg) in ether (5 mg)—tetrahydrofuran (10 ml). The mixture was stirred for one hour, to which was added 4N aqueous sodium hydroxide (0.025 ml). The mixture was stirred for 30 minutes at room temperature. The reaction mixture was poured into water, which was subjected to extraction with ethyl acetate. The ethyl acetate layer was washed with water, dried (MgSO4), and concentrated to leave a crystalline product. Recrystallization from ethyl acetate-hexane gave 1-[3-[4-[2-[(E)-2-phenylethenyl]-4-oxazolyl-methoxy]phenyl]propyl]-2-imidazolemethanol (160 mg, 58%) as colorless prisms, mp 143-144° C.

reactant | lithium aluminum hydride | 25 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl 1-[3-[4-[2-[(E)-2-phenylethenyl]-4-oxazolylmethoxy]phenyl]propyl]-2-imidazolecarboxylate | 300 mg | C1(=CC=CC=C1)/C=C/C=1OC=C(N1)COC1=CC=C(C=C1)CCCN1C(=NC=C1)C(=O)OCC | C27H27N3O4
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
reactant | sodium hydroxide | 4N, 0.025 ml | [OH-].[Na+]
solvent | ether | 5 ml | CCOCC | C4H10O
solvent | ether | 5 mg | CCOCC | C4H10O
solvent | water | O | H2O
product | 1-[3-[4-[2-[(E)-2-phenylethenyl]-4-oxazolyl-methoxy]phenyl]propyl]-2-imidazolemethanol | 160 mg, 58% | C1(=CC=CC=C1)/C=C/C=1OC=C(N1)COC1=CC=C(C=C1)CCCN1C(=NC=C1)CO | C25H25N3O3
